* smoke-cml-pair -- harness acceptance testbench (NOT a design deliverable)
*
* Netlist FRAGMENT. The harness supplies the title, .include of the gf180mcu
* models, the corner .lib sections, .temp, the .control block (analyses +
* measure) and .end. Parameters provided by the harness (see
* sim/harness/README.md): vdd_val/vdd_nom, temp_c, and -- because this
* testbench's manifest declares a `rates_mbps` axis -- rate_val (Mbps/lane
* for this grid point).
*
* Purpose: prove the harness's transient/rate-axis machinery end to end
* (sim/README.md, issue #8) with the DR-0002 load topology -- a bare 3.3 V
* NMOS (nfet_03v3) differential pair, tail current source, 50 ohm per-leg
* termination to the supply rail -- and NO other design content. This is a
* harness smoke test, not the CML driver (that is issue #11's job): device
* sizing and bias here are chosen only to get the pair fully switching, not
* to hit any spec target.
*
* Stimulus: a fixed-amplitude, fixed-edge-rate (20 ps) differential square
* wave at 1/rate_val (the worst-case, maximum-transition-density TMDS
* pattern -- alternating '10101...' is the highest-ISI-stress bit sequence a
* DC-balanced 8b/10b-style code can present, so it is a legitimate stand-in
* for "deliberately worst-case" per sim/README.md's stimulus convention).
* The convention also names a `prbs7`-pattern option for a real
* pseudo-random bit sequence; this smoke testbench exercises only the
* worst-case pattern; a PRBS driver testbench is deferred to issue #11
* (the real CML driver design), which is where a genuine multi-edge
* eye/jitter statistic first has a real driver+load to measure.
*
* Gate bias/swing (1.0 V / 2.6 V, common-mode 1.8 V) was picked empirically
* against nfet_03v3 (w=40u l=0.28u carries ~10 mA at Vgs~2.1 V, confirmed by
* a diode-connected DC op-point check against the installed gf180mcuD
* models) so the tail current fully commutates between the two legs at
* every PVT corner in the mandated matrix, rather than partially splitting
* (which would produce a physically-invalid negative source voltage on this
* device family's grounded bulk -- see the DR-0002 topology note above).

.param tbit_s = '1e-6/rate_val'

vdd vdd 0 dc {vdd_val}
itail tail 0 dc 10m

vinp inp 0 PULSE(1.0 2.6 0 20p 20p '{tbit_s/2 - 20p}' '{tbit_s}')
vinn inn 0 PULSE(2.6 1.0 0 20p 20p '{tbit_s/2 - 20p}' '{tbit_s}')

xmp outp inp tail 0 nfet_03v3 w=40u l=0.28u
xmn outn inn tail 0 nfet_03v3 w=40u l=0.28u

* DR-0002: 50 ohm per-leg termination to the 3.3 V rail.
rp vdd outp 50
rn vdd outn 50
* Small fixed parasitic load per leg -- not a pad/ESD capacitance claim
* (that is issue #12's job), just enough to keep the transient solver's
* local truncation error estimate well-behaved at every corner.
cp outp 0 0.1p
cn outn 0 0.1p

* Differential probe: a 1x VCVS onto a 1 ohm-to-ground node gives a real
* ngspice vector (`v(vdiff)`) for `meas`'s TRIG/TARG expressions -- ngspice's
* `v(a,b)` two-terminal probe syntax parses in `print`/`let` but was found
* NOT to parse inside `meas` TRIG/TARG expressions (confirmed against the
* installed ngspice-46 while developing this testbench); this is the
* documented workaround, not a design element.
edif vdiff vdiffref outp outn 1
rdiffref vdiffref 0 1
